US05582764
Preparation of trans, trans-4-(4-(4-n-propyl-4-silacyclohexyl)cyclohexyl)-4'-fluorobiphenyl
A 15 ml THF solution of 1.5M 4-(4-fluorophenyl)phenyl magnesium bromide (22.5 mmol) was dripped into a mixed solution of 7.0 g (20.0 mmol) of trans-4-(4-iodocyclohexyl)-1-n-propyl-1-silacyclohexane, 70 mg of copper (I) iodide and 50 ml of THF. The silacyclohexane rings of the product thus obtained were a mixture of trans isomers and cis isomers. After a conventional after treatment, they were separated by means of chromatography to obtain 2.29 g (yield 58%) of the target product, i.e. the trans, trans isomers. The obtained target product exhibited the same physical properties as the product of Example 8.

reactant | 4-(4-fluorophenyl)phenyl magnesium bromide | 22.5 mmol, 1.5M | FC1=CC=C(C=C1)C1=CC=C(C=C1)[Mg]Br
reactant | trans-4-(4-iodocyclohexyl)-1-n-propyl-1-silacyclohexane | 20.0 mmol, 7.0 g | IC1CCC(CC1)[C@@H]1CC[Si@H](CC1)CCC | C14H27ISi
catalyst | copper (I) iodide | 70 mg | [Cu]I
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | trans-4-(4-(4-n-propyl-4-silacyclohexyl)cyclohexyl)-4'-fluorobiphenyl | 2.29 g, yield 58% | C(CC)[SiH]1CCC(CC1)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)F | C26H35FSi
